US07507736B2
(4-Cyclopropanecarbonyl-piperazin-1-yl)-[5-(1-isopropyl-piperidin-4-yloxy)-6-methyl-1H-indol-2-yl]-methanone
The title compound was synthesized in analogy to example 1, from 5-(1-isopropyl-piperidin-4-yloxy)-6-methyl-1H-indole-2-carboxylic acid hydrochloride and 1-(cyclopropanecarbonyl)piperazine to afford the title compound as a light-yellow foam (56%).

reactant | 5-(1-isopropyl-piperidin-4-yloxy)-6-methyl-1H-indole-2-carboxylic acid hydrochloride | Cl.C(C)(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1C)C(=O)O
reactant | 1-(cyclopropanecarbonyl)piperazine | C1(CC1)C(=O)N1CCNCC1 | C8H14N2O
product | (4-Cyclopropanecarbonyl-piperazin-1-yl)-[5-(1-isopropyl-piperidin-4-yloxy)-6-methyl-1H-indol-2-yl]-methanone | 56% | C1(CC1)C(=O)N1CCN(CC1)C(=O)C=1NC2=CC(=C(C=C2C1)OC1CCN(CC1)C(C)C)C | C26H36N4O3
